US08470857B2
Step 2: Preparation of 4-[2-(2-carbamoyl-ethyl)-5-phenylpyrrol-1-yl]-benzoic acid tert-butyl ester (1D, R2=phenyl).
To a stirred solution of 4-[2-(2-carboxy-ethyl)-5-phenyl-pyrrol-1yl]-benzoic acid tert-butyl ester (1.33 mmol, 1.0 eq.) in THF (10 ml) was added CDI (1,1′carbonyldiimidazole, 1.60 mmol, 1.2 eq). The mixture was stirred at 45° C. for 2 h. To the reaction mixture was then added ammonium acetate (1.72 mmol, 1.3 eq.). The mixture was stirred at 45° C. for 16 hours.

reactant | 4-[2-(2-carboxy-ethyl)-5-phenyl-pyrrol-1yl]-benzoic acid tert-butyl ester | 1.33 mmol, 1.0 eq. | C(C)(C)(C)OC(C1=CC=C(C=C1)N1C(=CC=C1C1=CC=CC=C1)CCC(=O)O)=O | C24H25NO4
reactant | CDI | 1.60 mmol, 1.2 eq | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | ammonium acetate | 1.72 mmol, 1.3 eq. | C(C)(=O)[O-].[NH4+]
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | 4-[2-(2-carbamoyl-ethyl)-5-phenylpyrrol-1-yl]-benzoic acid tert-butyl ester | C(C)(C)(C)OC(C1=CC=C(C=C1)N1C(=CC=C1C1=CC=CC=C1)CCC(N)=O)=O | C24H26N2O3
